US07476688B2
(Step 5) (3-Benzyl-4-propyltetrahydro-1H-2-pyrrolylidene)ammonium chloride
Ammonium chloride (155 mg, 2.9 mmol) was added to a solution of 4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrrolyl methyl ether (0.67 g, 2.9 mmol) in ethanol (15 ml) and the mixture was heated to reflux for 4 hours. The reaction mixture was filtered and the filtrate was distilled off under reduced pressure. The residue was crystallized from ethyl acetate to yield the title compound (440 mg) as a white crude product. 1H-NMR (DMSO-d6) δ(ppm) 0.62 (3H, t, J=7.2 Hz), 0.87-1.20 (4H, m), 2.01-2.15 (1H, m), 2.72-2.85 (1H, m), 2.88-2.98 (1H, m), 3.05-3.25 (1H, m), 3.50-3.62 (1H, m), 7.19-7.40 (5H, m)

reactant | Ammonium chloride | 2.9 mmol, 155 mg | [Cl-].[NH4+]
reactant | 4-benzyl-3-propyl-3,4-dihydro-2H-5-pyrrolyl methyl ether | 2.9 mmol, 0.67 g | COC=1C(C(CN1)CCC)CC1=CC=CC=C1 | C15H21NO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (3-Benzyl-4-propyltetrahydro-1H-2-pyrrolylidene)ammonium chloride | 440 mg | [Cl-].C(C1=CC=CC=C1)C1C(NCC1CCC)=[NH2+] | InChI=1S/C14H20N2.ClH/c1-2-6-12-10-16-14(15)13(12)9-11-7-4-3-5-8-11;/h3-5,7-8,12-13H,2,6,9-10H2,1H3,(H2,15,16);1H
